US08067426B2
Intermediate 65: 2-(Cyclohexyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
Sodium tert-butoxide (3.29 g, 34.2 mmol) was added portionwise to cyclohexanol (15 ml) at room temperature. The mixture became very thick and more cyclohexanol (10 ml) was added and the mixture heated to 50° C. 2-Fluoro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (2 g, 8.43 mmol) was added and the mixture heated at 50° C. for 1 hour and then warmed to 60° C. and heated for a further 2 hours at which point LCMS showed complete reaction. The mixture was cooled to room temperature and partitioned between ethyl acetate (150 ml) and water (150 ml). The organic phase was separated, washed with saturated brine, dried over anhydrous magnesium sulphate, filtered and evaporated on a water bath at 60° C. The residue was dissolved in dichloromethane and purified on a 70 g aminopropyl (NH2) cartridge using a 0-100% ethyl acetate in cyclohexane gradient followed by a 0-20% methanol (+1% triethylamine) gradient over 30 mins. Some product-containing fractions were contaminated with cyclohexanol and these were re-purified on a 70 g silica cartridge using a 0-100% ethyl acetate-cyclohexane gradient over 40 mins. Product-containing fractions from the two purifications were combined and evaporated in vacuo to give the title compound as a pale yellow foam (1.59 g).

reactant | Sodium tert-butoxide | 34.2 mmol, 3.29 g | CC(C)([O-])C.[Na+]
reactant | 2-Fluoro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 8.43 mmol, 2 g | FC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12FN5O
reactant | cyclohexanol | 10 ml | C1(CCCCC1)O | C6H12O
reactant | cyclohexanol | 15 ml | C1(CCCCC1)O | C6H12O
product | 2-(Cyclohexyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.59 g | C1(CCCCC1)OC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C16H23N5O2
